US04837225
N-(2-(2,5-Dimethyl-1-pyrrolyl)ethyl)-4-chlorophenoxyacetamide
9.3 g (0.05 mol) of 4-chlorophenoxyacetic acid, 6.9 g (0.05 mol) of 1-(2-aminoethyl)-2,5-dimethylpyrrole and 35 ml of triethylamine are dissolved in 50 ml of dimethylformamide. At -5° to 0° C., 20 ml of methylethylphosphinic anhydride are added dropwise, and the mixture is then stirred at room temperature for 3 h. The reaction mixture is poured into ice-cold aqueous sodium bicarbonate solution, and the mixture is extracted with methylene chloride and the extract is concentrated. The residue is chromatographed over a 20 cm silica gel column using a 1:1 methylene chloride/ethyl acetate mixture as the mobile phase, and the product is crystallized using ligroin. Yield: 10.5 g (69% of theory), Melting point: 75°-77° C. Elemental analysis: C16H19CLN2O2 (306.80) calculated: C 62.6 H 6.2 CL 11.6 N 9.1 0 10.4 found: C 62.7 H 6.4 CL 11.7 N 9.2 0 10.4

reactant | 4-chlorophenoxyacetic acid | 0.05 mol, 9.3 g | ClC1=CC=C(OCC(=O)O)C=C1 | C8H7ClO3
reactant | 1-(2-aminoethyl)-2,5-dimethylpyrrole | 0.05 mol, 6.9 g | NCCN1C(=CC=C1C)C | C8H14N2
reactant | triethylamine | 35 ml | C(C)N(CC)CC | C6H15N
reactant | methylethylphosphinic anhydride | 20 ml | CP(=O)(CC)OP(=O)(C)CC | C6H16O3P2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(2-(2,5-Dimethyl-1-pyrrolyl)ethyl)-4-chlorophenoxyacetamide | CC=1N(C(=CC1)C)CCNC(COC1=CC=C(C=C1)Cl)=O | C16H19ClN2O2
